US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (100 mg, 0.14 mmol) in acetonitrile (1 mL) was added zirconyl(IV) nitrate hydrate (36 mg, 0.16 mmol). The reaction mixture was heated to 70° C. for 1 h. After cooled to room temperature, the reaction mixture was filtered through a micro filter and the filtrate was concentrated under reduced pressure. The crude material was purified by preparative TLC (silica gel, 96:4 chloroform/methanol) and semi-preparative HPLC to afford (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-4-nitro-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (34 mg, 33%) as a dark red solid: 1H NMR (500 MHz, CDCl3) δ 14.23 (s, 1H), 12.27 (br s, 1H), 8.19 (s, 1H), 6.86 (d, J=8.0 Hz, 1H), 5.89 (s, 1H), 5.31 (s, 1H), 5.19 (s, 1H), 4.69 (d, J=8.5 Hz, 1H), 4.61 (s, 1H), 3.91 (s, 3H), 3.79 (s, 3H), 3.76-3.65 (m, 2H), 3.61 (s, 3H), 3.49 (dd, J=19.5, 6.5 Hz, 1H), 3.40 (s, 3H), 3.39-3.35 (m, 1H), 3.28 (d, J=19.5 Hz, 1H), 3.13 (t, J=9.5 Hz, 1H), 2.47 (d, J=4.5 Hz, 1H), 2.40 (s, 3H), 1.36 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 743 (M+H); HPLC 98.0% (AUC), tR 13.79 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.14 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | nitrate hydrate | 0.16 mmol, 36 mg | O.[N+](=O)(O)[O-]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-4-nitro-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 34 mg, 33% | OC1=C(C(=C(C2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)[N+](=O)[O-])C)C(=O)OC | C34H34N2O17
